US05130309
1-Ethyl-3-(4-nitrophenoxy)azetidine
The title compound is prepared from 1-ethyl-3-azetidinol and 1-fluoro-4-nitrobenzene according to the procedures of Example 5.

reactant | 1-ethyl-3-azetidinol | C(C)N1CC(C1)O | C5H11NO
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-Ethyl-3-(4-nitrophenoxy)azetidine | C(C)N1CC(C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O3
